US07919508B2
Scheme E, Step E1 {2-[4-((1R,3S)-1-Formylaminomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-ethyl}carbamic acid tert-butyl ester
Stir a solution of N-((1R,3S)-5-methoxy-6-methyl-3-(4-piperidinyl)-1-isochromanyl-methyl)formamide (4.0 g, 12.5 mmole) in dichloroethane (110 mL) and add sodium triacetoxyborohydride (4.0 g, 18.8 mmole). Dissolve t-butyl N-(2-oxoethyl)-carbamate (1.0 g, 6.3 mmole) in dichloroethane (20 mL) and add it to the reaction mixture. After 6 hours add another 6.3 mmole of t-butyl N-(2-oxoethyl)-carbamate in dichloroethane. After another 42 hours adjust the pH of the reaction mixture to about 14 with 50% NaOH and extract with dichloromethane. Wash the combined extracts with water and dry over Mg2SO4. Purify the crude product on a 33 g silica gel column (eluting with ammonium hydroxide:methanol:ethyl acetate 1:1:98). Collect the appropriate fractions and concentrate to obtain the title compound. CIMS 462, tR (min)=0.46.

reactant | N-((1R,3S)-5-methoxy-6-methyl-3-(4-piperidinyl)-1-isochromanyl-methyl)formamide | 12.5 mmole, 4.0 g | COC1=C2C[C@H](O[C@H](C2=CC=C1C)CNC=O)C1CCNCC1 | C18H26N2O3
reactant | sodium triacetoxyborohydride | 18.8 mmole, 4.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | t-butyl N-(2-oxoethyl)-carbamate | 6.3 mmole, 1.0 g | O=CCNC(OC(C)(C)C)=O | C7H13NO3
reactant | t-butyl N-(2-oxoethyl)-carbamate | 6.3 mmole | O=CCNC(OC(C)(C)C)=O | C7H13NO3
solvent | dichloroethane | 110 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | {2-[4-((1R,3S)-1-Formylaminomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-ethyl}carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN1CCC(CC1)[C@H]1O[C@H](C2=CC=C(C(=C2C1)OC)C)CNC=O)=O | C25H39N3O5
